US04140789
A solution of 19.4 g of 1-(2-allyloxy-3-nitro-phenoxy)-3-(N-benzyl-tert.-butylamino)-2-propanol in a mixture of 350 ml of ethanol, 35 ml of water and 5 ml of triethylamine, with the addition of 1 g of rhodium tris-(triphenylphosphine)-chloride, is stirred under reflux for 45 minutes. After filtering and evaporating the filtrate, crude 1-(N-benzyl-tert.-butylamino)-3-(2-hydroxy-3-nitro-phenoxy)-2-propanol is obtained in the form of a dark red oil, which is used further without further purification.

reactant | 1-(2-allyloxy-3-nitro-phenoxy)-3-(N-benzyl-tert.-butylamino)-2-propanol | 19.4 g | C(C=C)OC1=C(OCC(CN(CC2=CC=CC=C2)C(C)(C)C)O)C=CC=C1[N+](=O)[O-] | C23H30N2O5
reactant | water | 35 ml | O | H2O
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 350 ml | C(C)O | C2H6O
catalyst | rhodium tris-(triphenylphosphine)-chloride | 1 g | [Cl-].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Rh+3].[Cl-].[Cl-]
product | 1-(N-benzyl-tert.-butylamino)-3-(2-hydroxy-3-nitro-phenoxy)-2-propanol | C(C1=CC=CC=C1)N(CC(COC1=C(C(=CC=C1)[N+](=O)[O-])O)O)C(C)(C)C | C20H26N2O5
